US07091215B2
tert-Butyl N-[7-(2,4-dimethoxy-6-methylphenyl)-2-methoxypyrazolo[1,5-a]pyridin-3-yl]carbamate
After dissolving tert-butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate (300 mg) in 1,2-dimethoxyethane (10 mL) and water (5 mL), 6-methyl-2,4-dimethoxyphenylboric acid (258 mg), tetrakis (triphenylphosphine)palladium (0) complex (203 mg) and barium hydroxide octahydrate (415 mg) were added and the mixture was heated and stirred at 80° C. for 3 hours. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with brine. After drying the obtained organic layer over anhydrous magnesium sulfate and filtering it, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (230 mg) was obtained from the n-hexane:ethyl acetate (5:1) fraction as a brown oil.

reactant | tert-butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate | 300 mg | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)OC | C13H16BrN3O3
reactant | 6-methyl-2,4-dimethoxyphenylboric acid | 258 mg | CC1=CC(=CC(=C1OB(O)O)OC)OC | C9H13BO5
reactant | barium hydroxide octahydrate | 415 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
product | tert-Butyl N-[7-(2,4-dimethoxy-6-methylphenyl)-2-methoxypyrazolo[1,5-a]pyridin-3-yl]carbamate | 230 mg | COC1=C(C(=CC(=C1)OC)C)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)OC | C22H27N3O5
